US07375134B2
To [3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-carbamic acid benzyl ester (3.2 g, 9.2 mmol) in absolute EtOH (30 mL) was added 10% Pd in activated carbon (320 mg, 10%) under nitrogen. The reaction mixture was hydrogenated at 50 psi for 6 h. The reaction was monitored by TLC and the reaction mixture was filtered through Celite. The solvent was removed to get 3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butylamine as a white solid.

reactant | [3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butyl]-carbamic acid benzyl ester | 9.2 mmol, 3.2 g | C(C1=CC=CC=C1)OC(NC(CC(C)C)C12OCC(CO1)(CO2)C)=O | C19H27NO5
solvent | EtOH | 30 mL | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
product | 3-methyl-1-(4-methyl-2,6,7-trioxa-bicyclo[2.2.2]oct-1-yl)-butylamine | CC(CC(C12OCC(CO1)(CO2)C)N)C | C11H21NO3
